US07851473B2
(3) N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide
A mixture of 1-(4-Phenyl-1,3-thiazol-2-yl)piperazine (330 mg, 0.673 mmol), bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate (326 mg, 0.673 mmol), diisopropylethylamine (0.117 ml, 0.673 mmol) and dimethylsulfoxide (5 ml) was stirred at 70° C. for 2 hours. The reaction mixture was poured to water and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1) to give the desired product as a solid. The resulting solid was recrystallized from a mixed solvent of tetrahydrofuran, ethyl acetate and hexane to yield 115 mg (42.1%) of the desired product.

reactant | 1-(4-Phenyl-1,3-thiazol-2-yl)piperazine | 0.673 mmol, 330 mg | C1(=CC=CC=C1)C=1N=C(SC1)N1CCNCC1 | C13H15N3S
reactant | bis(2,2,2-trichloroethyl) 1,2-benzisoxazol-3-ylimidodicarbonate | 0.673 mmol, 326 mg | O1N=C(C2=C1C=CC=C2)N(C(=O)OCC(Cl)(Cl)Cl)C(=O)OCC(Cl)(Cl)Cl | C13H8Cl6N2O5
reactant | diisopropylethylamine | 0.673 mmol, 0.117 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-1,2-Benzisoxazol-3-yl-4-(4-phenyl-1,3-thiazol-2-yl)piperazine-1-carboxamide | O1N=C(C2=C1C=CC=C2)NC(=O)N2CCN(CC2)C=2SC=C(N2)C2=CC=CC=C2 | C21H19N5O2S
